US05093370
N,N-dimethyl-4-phenylbutylamine
To 426 mg of the colorless liquid (4-bromobutyl)benzene were added 1.05 ml of 50% dimethylamine aqueous solution and 1 ml of ethanol, and the mixture was stirred at a room temperature for 520 minutes. To the reaction mixture were added 30 ml of ethyl acetate and 10 ml of 5% sodium bicarbonate aqueous solution. The separated organic layer was washed with a saturated sodium chloride aqueous solution, dried over magnesium sulfate, and evaporated under a reduced pressure to obtain a residue. To the residue was added 20 ml of benzene, then was washed with water and a saturated sodium chloride aqueous solution, dried over magnesium sulfate, and evaporated under a reduced pressure to obtain 287 mg of the title compound as colorless liquid.

reactant | (4-bromobutyl)benzene | BrCCCCC1=CC=CC=C1 | C10H13Br
reactant | dimethylamine | 1.05 ml | CNC | C2H7N
reactant | ethanol | 1 ml | C(C)O | C2H6O
reactant | sodium bicarbonate | 10 ml | C([O-])(O)=O.[Na+]
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | N,N-dimethyl-4-phenylbutylamine | 287 mg | CN(C)CCCCC1=CC=CC=C1 | C12H19N
